US03983135
1-(1-Methyl-4-oxo-2-imidazolidinylidene)-3-p-methoxyphenyl urea
To a stirring suspension of creatinine (11.88 g, 0.105 mole) in 100 ml dry DMF, p-methoxyphenylisocyanate (14.91 g, 0.100 mole) is added dropwise over a period of about 15 minutes with cooling. After stirring for 8 hours, the mixture is poured into about 500 ml of ice water to yield white crystals of product which are filtered off, washed with water and purified by recrystallization (twice) from tetrahydrofuran-methanol. The crystalline product is reduced to finer size by adding a solution of the product in minimal DMF to vigorously stirred water (about 1.1 liters) and filtering off the resultant crystals which are then dried at room temperature in vacuo for 24 hours; m.p. 193°-5°C dec.

reactant | creatinine | 0.105 mole, 11.88 g | CN1CC(=O)N=C1N | C4H7N3O
reactant | p-methoxyphenylisocyanate | 0.100 mole, 14.91 g | COC1=CC=C(C=C1)N=C=O | C8H7NO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-(1-Methyl-4-oxo-2-imidazolidinylidene)-3-p-methoxyphenyl urea | CN1C(NC(C1)=O)=NC(=O)NC1=CC=C(C=C1)OC | C12H14N4O3
